US04472316
6.24 g of isopropyl 3-(4-phenoxybenzoyl)propionate were dissolved in 50 ml of chloroform. After a catalytic amount of anhydrous aluminum chloride was added, a solution of 3.62 g of bromine in 20 ml of chloroform was added dropwise over 30 minutes. The reaction mixture was washed with water, then dried over magnesium sulfate. The chloroform was removed by evaporation under reduced pressure to give oily isopropyl 3-bromo-3-(4-phenoxybenzoyl)propionate, which was dissolved, without purification, in 50 ml of dimethylformamide. 3.02 g of potassium acetate were added under ice-cooling, and the mixture was stirred for 30 minutes. Diethyl ether was added to the reaction mixture, which was then washed with water and dried over magnesium sulfate. The diethyl ether was distilled off under reduced pressure and the residue was recrystallized from a mixture of hexane and diethyl ether to give 5.83 g of isopropyl 3-(4-phenoxybenzoyl)acrylate.

reactant | isopropyl 3-(4-phenoxybenzoyl)propionate | 6.24 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)CCC(=O)OC(C)C)C=C1 | C19H20O4
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 3.62 g | BrBr | Br2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | isopropyl 3-bromo-3-(4-phenoxybenzoyl)propionate | BrC(CC(=O)OC(C)C)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C19H19BrO4
